US07749999B2
5-tert-Butyl-1-chloro-2-methoxy-3-nitro-benzene.
4-tert-Butyl-2-chloro-6-nitro-phenol (0.214 g, 0.934 mmol) was dissolved in 3 mL acetone and K2CO3 (0.65 g, 4.7 mmol) and MeI (0.58 mL, 9.3 mmol) were added. The reaction was stirred at 65° C. overnight, after which the solvent was removed under reduced pressure. The residue was taken up in DCM, the organic layer was washed with water, dried over MgSO4 and concentrated to yield 0.15 g of target product.

reactant | 4-tert-Butyl-2-chloro-6-nitro-phenol | 0.934 mmol, 0.214 g | C(C)(C)(C)C1=CC(=C(C(=C1)[N+](=O)[O-])O)Cl | C10H12ClNO3
reactant | K2CO3 | 4.7 mmol, 0.65 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 9.3 mmol, 0.58 mL | CI | CH3I
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 5-tert-Butyl-1-chloro-2-methoxy-3-nitro-benzene | C(C)(C)(C)C=1C=C(C(=C(C1)Cl)OC)[N+](=O)[O-] | C11H14ClNO3
